US06743939B2
a) 1-(3-Thienyl)-1,4-butanediol
3-Chloropropanol (6.77 ml, 81 mmol) was dissolved in anhydrous tetrahydrofuran (100 ml) and the solution cooled to 0° C. i-Propyl magnesium chloride, 2M solution, (40.5 ml, 81 mmol) was added dropwise, keeping the temperature at 0° C. When the addition was complete the reaction was allowed to warm to room temperature. Magnesium (2.96 g, 122 mmol) was added in one portion, followed by dibromoethane (0.1 ml). The reaction was heated and gently refluxed for 3 h, adding more dibromoethane (0.1 ml) at 1 and 2 h. The reaction was cooled and left to stand overnight. The resultant Grignard solution was titrated and had a concentration of 0.4M. The Grignard reagent prepared above (30 ml, 12 mmol) was syringed into a nitrogen flushed 3-necked flask, cooled to 0° C. and treated dropwise with 3-thiophene carboxaldehyde (1.12 g, 10 mmol) in tetrahydrofuran (10 ml). The reaction was allowed to warm to room temperature slowly and then stirred for a further 18 h. Saturated aqueous ammonium chloride (20 ml) was added and the mixture extracted with ethyl acetate (3×75 ml). The combined organic extracts were washed with water (20 ml), dried (magnesium sulphate) and evaporated to afford the title compound as a colourless oil (1.52 g, 88%).

reactant | 3-Chloropropanol | 81 mmol, 6.77 ml | ClCCCO | C3H7ClO
reactant | i-Propyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | Magnesium | 122 mmol, 2.96 g | [Mg] | Mg
reactant | dibromoethane | 0.1 ml | BrC(C)Br | C2H4Br2
reactant | dibromoethane | 0.1 ml | BrC(C)Br | C2H4Br2
reactant | 3-thiophene carboxaldehyde | 10 mmol, 1.12 g | S1C=C(C=C1)C=O | C5H4OS
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(3-Thienyl)-1,4-butanediol | 1.52 g, 88% | S1C=C(C=C1)C(CCCO)O | C8H12O2S
